US06579879B2
To a solution of sodium metal (18.6 mmol, 428 mg) dissolved in methanol (8 mL) was added a solution of 3-methoxy-6-(N-phenylsulfonylindole-2-sulfonyl)-pyridazine (1.86 mmol, 850 mg) and the reaction was stirred for 10 minutes. The reaction mixture was quenched with H2O (10 mL) and CHCl3 (25 mL). The CHCl3 layer was collected, dried, filtered, and the filtrate was evaporated to obtain 2-methoxy-6-(indole-2-sulfonyl)-pyridazine (82%, 440 mg).

reactant | sodium | 18.6 mmol, 428 mg | [Na] | Na
reactant | 3-methoxy-6-(N-phenylsulfonylindole-2-sulfonyl)-pyridazine | 1.86 mmol, 850 mg | COC=1N=NC(=CC1)S(=O)(=O)C=1N(C2=CC=CC=C2C1)S(=O)(=O)C1=CC=CC=C1 | C19H15N3O5S2
reactant | methanol | 8 mL | CO | CH4O
product | 2-methoxy-6-(indole-2-sulfonyl)-pyridazine | 440 mg, 82% | CON1NC(=CC=C1)S(=O)(=O)C=1NC2=CC=CC=C2C1 | C13H13N3O3S
